US05942516
f) 5-hydroxymethyl-4-(2-methoxymethoxy-4-methoxyphenyl)-3-propoxy-pyridine
A mixture of 3-hydroxy-5-hydroxymethyl-4-(2-methoxymethoxy-4-methoxy-phenyl)-pyridine (550 mg, 1.89 mmol), iodopropane (0.210 ml, 2.15 mmol), potassium carbonate (3 g) in dry DMF (70 ml) was stirred overnight at rt. The mixture was dissolved in water and extracted with a 1:1 hexane:t-butyl methyl ether solution (×3) and washed with brine, dried (Na2SO4), and concentrated to afford the title compound as a greenish oil. (527 mg, 84%)

reactant | 3-hydroxy-5-hydroxymethyl-4-(2-methoxymethoxy-4-methoxy-phenyl)-pyridine | 1.89 mmol, 550 mg | OC=1C=NC=C(C1C1=C(C=C(C=C1)OC)OCOC)CO | C15H17NO5
reactant | iodopropane | 2.15 mmol, 0.210 ml | ICCC | C3H7I
reactant | potassium carbonate | 3 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 70 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 5-hydroxymethyl-4-(2-methoxymethoxy-4-methoxyphenyl)-3-propoxy-pyridine | OCC=1C(=C(C=NC1)OCCC)C1=C(C=C(C=C1)OC)OCOC | C18H23NO5
